US05173493
A solution of 8,9-dihydro-7-[(hydroxy) (5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (1.1 g) in acetic acid-water (3:1, 48 ml) was stirred at 65° C. for 90 minutes. After evaporation of the solvent, the residue was diluted with water, neutralized with an aqueous solution of sodium hydrogencarbonate, and extracted with chloroform. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The obtained amorphous powder contained two products which showed close Rf values (0.3 and 0.4 respectively) by TLC (20% methanol-chloroform). Separation with silica gel column chromatography (10% methanol-chloroform) gave two fractions. The residue obtained from the first eluted fraction was dissolved in ethyl acetate and treated with hydrogen chloride in ether to give one isomer with an upper Rf value of 8,9-dihydro-7-[(hydroxy) (5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one hydrochloride (86.1 mg), which was designated as the isomer A.

reactant | 8,9-dihydro-7-[(hydroxy) (5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 1.1 g | OC(C1CCC=2N(C3=CC=CC=C3C2)C1=O)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H31N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid water | 48 ml | C(C)(=O)O.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 8,9-dihydro-7-[(hydroxy) (5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one hydrochloride | 86.1 mg | Cl.OC(C1CCC=2N(C3=CC=CC=C3C2)C1=O)C=1N=CNC1C | InChI=1S/C17H17N3O2.ClH/c1-10-15(19-9-18-10)16(21)13-7-6-12-8-11-4-2-3-5-14(11)20(12)17(13)22;/h2-5,8-9,13,16,21H,6-7H2,1H3,(H,18,19);1H
